US07960563B2
1-(4-Hydroxy-3-methylphenyl)-1H-indazol-4-ol (E18)
1-[3-Methyl-4-(methyloxy)phenyl]-4-[(phenylmethyl)oxy]-1H-indazole (D34) (550 mg, 1.64 mmol) was dissolved in dry DCM (20 mL) and degassed by sonication under a flow of argon. The solution was cooled to −78° C. and after 10 mins treated with BBr3 (1M in DCM, 3.29 mL, 3.29 mmol) dropwise and when the addition was complete the bath was removed and it was allowed to reach room temperature. The reaction was followed by LC-MS. After 45 minutes more BBr3 (1M in DCM, 3.29 mL, 3.29 mmol) was added to the mixture and after 17 hours it was partitioned between DCM (75 mL)/water (75 mL), the pH adjusted to 7 by addition of a solution of NaHCO3 and the layers separated. The aqueous phase was extracted with DCM (2×50 mL) twice and the combined organics were washed with brine (50 mL) and dried over MgSO4, filtered and concentrated in vacuo. The crude material (456 mg) was purified by flash chromatography (Biotage SP4) with a gradient of EtOAc 0 to 40% in hexane. The isolated material was further purified by MDAP to afford 36 mg of the title compound (E18).

reactant | 1-[3-Methyl-4-(methyloxy)phenyl]-4-[(phenylmethyl)oxy]-1H-indazole | 1.64 mmol, 550 mg | CC=1C=C(C=CC1OC)N1N=CC2=C(C=CC=C12)OCC1=CC=CC=C1 | C22H20N2O2
reactant | BBr3 | 3.29 mmol, 1M, 3.29 mL | B(Br)(Br)Br | BBr3
reactant | BBr3 | 3.29 mmol, 1M, 3.29 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Hydroxy-3-methylphenyl)-1H-indazol-4-ol | 36 mg | OC1=C(C=C(C=C1)N1N=CC=2C(=CC=CC12)O)C | C14H12N2O2
